US08058449B2
(S,R) and (S,S)-2-{3-[1-(3-Iodo-phenyl)-2-methoxycarbonyl-ethyl]-ureido}-pentanedioic acid di-tert-butyl ester (22)
2-[(Imidazole-1-carbonyl)-amino]-pentanedioic acid di-tert-butyl ester (370 mg, 1.05 mmol) was dissolved in DCE (10 mL) and cooled to 0° C. MeoTf (142 μL, 1.25 mmol) was added and the reaction was allowed to proceed for 20 min. (±)-3-Amino-3-(3-iodo-phenyl)-propionic acid methyl ester (356 mg, 1.045 mmol) was added and the reaction was allowed to warm to room temperature and then warmed to 55° C. and stirred overnight. The reaction was diluted with DCM (50 mL) and washed with water (30 mL), 5% aq. Citric acid (30 mL), sat. sodium bicarbonate (30 mL), water (30 mL) and brine (30 mL). The organic layer was dried over sodium sulfate and concentrated to afford the crude product. The product was purified by column chromatography to afford the desired product (303 mg, 0.51 mmol, 49%) as a white foam. 1H NMR (400 MHz, CDCl3) δ 7.66 (s, 1H), 7.57 (d, J=7.6 Hz, 1H), 7.29 (s, 1H), 7.07-7.02 (m, 1H), 5.74 (br, 1H), 5.17 (br, 2H), 4.30 (m, 1H), 3.63 (s, 1.5H), 3.62 (s, 1.5H), 2.88-2.76 (m, 2H), 2.38-2.24 (m, 2H), 2.10-2.00 (m, 1H), 1.90-1.80 (m, 1H), 1.46 (s, 9H), 1.44 (s, 9H).

reactant | 2-[(Imidazole-1-carbonyl)-amino]-pentanedioic acid di-tert-butyl ester | 1.05 mmol, 370 mg | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)N1C=NC=C1)=O | C17H27N3O5
reactant | (±)-3-Amino-3-(3-iodo-phenyl)-propionic acid methyl ester | 1.045 mmol, 356 mg | COC(CC(C1=CC(=CC=C1)I)N)=O | C10H12INO2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S,S)-2-{3-[1-(3-Iodo-phenyl)-2-methoxycarbonyl-ethyl]-ureido}-pentanedioic acid di-tert-butyl ester | 0.51 mmol, 303 mg, 49% | C(C)(C)(C)OC([C@H](CCC(=O)OC(C)(C)C)NC(=O)N[C@@H](CC(=O)OC)C1=CC(=CC=C1)I)=O | C24H35IN2O7
